US09029536B2
C) (1H-Benzimidazol-2-yl)[4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl]methanone
A mixture of [4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl](1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)methanone obtained, EtOH (5 mL), and 6 M HCl aqueous solution (5 mL) was refluxed for 2 h. The reaction mixture was poured into water, alkalized with 1 M NaOH aqueous solution, and extracted with AcOEt. The extract was washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was recrystallized from THF to give the title compound (285 mg).

reactant | [4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl](1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)methanone | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)C(=O)C2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1 | C28H31N5O2Si
reactant | EtOH | 5 mL | CCO | C2H6O
reactant | HCl | 6 M, 5 mL | Cl | ClH
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | water | O | H2O
product | (1H-Benzimidazol-2-yl)[4-(1-ethyl-1H-pyrazolo[4,3-b]pyridin-3-yl)phenyl]methanone | 285 mg | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)C2=NN(C=1C2=NC=CC1)CC | C22H17N5O
